US03933816
7-Chloro-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester
A mixture of 6.35 g. (0.0186 mole) of 7-chloro-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-acetic acid methyl ester, 4.42 g. (0.0199 mole) of phosphorus pentasulfide and 185 ml. of pyridine is heated under reflux for about 19 hours. The pyridine is evaporated, 100 ml. of cold water is added, and the product is extracted with four 100-ml. portions of methylene chloride. The extracts are combined, washed with sodium bicarbonate solution and saturated salt solution, dried over anhydrous magnesium sulfate and evaporated to give 2.5 g. of residue. The residue thus obtained is extracted with eight 250-ml. portions of boiling ether. The extracts are combined and concentrated. On standing 2.1 g. of 7-chloro-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester of melting point 180°-182° c. crystallizes from solution; recrystallization from ether raises the melting point to 185°-187° C.

reactant | 7-chloro-2,3-dihydro-2-oxo-5-phenyl-1H-1,4-benzodiazepin-1-acetic acid methyl ester | 0.0186 mole | COC(CN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O)=O | C18H15ClN2O3
reactant | phosphorus pentasulfide | 0.0199 mole | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-Chloro-2,3-dihydro-5-phenyl-2-thioxo-1H-1,4-benzodiazepin-1-acetic acid methyl ester | COC(CN1C(CN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=S)=O | C18H15ClN2O2S
